US06191166B1
Synthesis of N-[N-(3,5-Difluorophenylacetyl)-L-alaninyl]-L-alanine Ethyl Ester
Following General Procedure C and using 3,5-difluorophenylacetic acid (Oakwood) and L-alanine ethyl ester hydrochloride (Sigma), the title compound was prepared as a solid (mp=197-199° C.). The reaction was monitored by tlc (Rf=0.6 in EtOAc) and the product was purified from bi-products by silica gel chromatography using EtOAc as the eluent, followed by recrystallization from EtOAc.

reactant | 3,5-difluorophenylacetic acid | FC=1C=C(C=C(C1)F)CC(=O)O | C8H6F2O2
reactant | L-alanine ethyl ester hydrochloride | Cl.C(C)OC([C@@H](N)C)=O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[N-(3,5-Difluorophenylacetyl)-L-alaninyl]-L-alanine Ethyl Ester | C(C)OC([C@@H](NC([C@@H](NC(CC1=CC(=CC(=C1)F)F)=O)C)=O)C)=O | C16H20F2N2O4
